US07009056B2
1-Benzyl-3-[3-(N,N-dimethylaminomethyl)-1,2,4-oxadiazol-5-yl]indazole
Hydroxylamine hydrochloride (1.24 g 17.8 mmol) was added to a solution of sodium (0.64 g, 26 mmol) in MeOH (100 mL). The reaction mixture was stirred at 25° C. for 15 min then dimethylaminoacetonitrile (1.5 g, 17.8 mmol) in MeOH (5 mL) was added and the reaction mixture stirred at 25° C. for a further 5 days. The solid was removed by filtration and the liquid concentrated under reduced pressure. The crude material was taken up in dry THF (100 mL) and sodium hydride (0.114 g, 60%, 2.86 mmol) was added and the reaction mixture was heated to 50° C. 1-Benzylindazole-3-carboxylic acid methyl ester (0.25 g, 0.938 mmol) was added and the reaction mixture was heated at reflux for 4 h. The THF was removed under reduced pressure and the residue partitioned between chloroform (100 mL) and H2O (100 mL). The chloroform layer was separated and the aqueous layer was further extracted with 2×100 mL of chloroform. The combined extracts were dried (MgSO4) and concentrated under reduced pressure. The crude compound was purified by flash chromatography using chloroform/MeOH (97.5:2.5) to afford the title compound (0.151 g, 48%) as a yellow solid. Mp 93–95° C. 1H NMR (300 MHz, CDCl3) ppm 2.40 (s, 6H), 3.77 (s, 2H), 5.68 (s, 2H), 7.19–7.37 (m, 8H), 8.27–8.30 (m, 2H). MS(FAB) m/z 334 [M+H]+. HRMS Calcd. for C19H20N5O: 334.1668. Found: 334.1655 [M+H]+.

reactant | Hydroxylamine hydrochloride | 17.8 mmol, 1.24 g | Cl.NO
reactant | sodium | 26 mmol, 0.64 g | [Na] | Na
reactant | dimethylaminoacetonitrile | 17.8 mmol, 1.5 g | CN(C)CC#N | C4H8N2
reactant | sodium hydride | 2.86 mmol, 0.114 g | [H-].[Na+]
reactant | 1-Benzylindazole-3-carboxylic acid methyl ester | 0.938 mmol, 0.25 g | COC(=O)C1=NN(C2=CC=CC=C12)CC1=CC=CC=C1 | C16H14N2O2
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | 1-Benzyl-3-[3-(N,N-dimethylaminomethyl)-1,2,4-oxadiazol-5-yl]indazole | 0.151 g, 48% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C1=NC(=NO1)CN(C)C | C19H19N5O
